US07241810B2
Preparation 2: (3-Ethoxycarbonylmethylphenyl)acetic acid
A solution of preparation 1 (44.3 g, 177 mmol) and 2,2′-(1,3-phenylene)diacetic acid (59.2 g, 308 mmol) in ethanol (24 mL) and dioxan (290 mL) was treated dropwise with hydrochloric acid (12 M, 4.9 mL, 58.8 mmol). The reaction mixture was stirred at reflux for 18 hours before being allowed to cool and concentrated to low volume. The reaction mixture was diluted with toluene (125 mL) and the resulting slurry filtered. The filtrate was concentrated in vacuo and the residue taken up in water and basified with sodium bicarbonate until pH neutral. The mixture was diluted with ethyl acetate (200 mL) and the organic layer was separated and washed with sodium bicarbonate solution (5×30 ml) and brine (50 mL). The combined aqueous extracts were acidified to pH 3 with 6M hydrochloric acid and extracted with diethylether (3×30 mL). The organics were combined, dried (MgSO4) and concentrated in vacuo. The residue was triturated with pentane to yield a colourless solid (10.8 g). 1HNMR (CD3OD, 400 MHz) δ: 1.25 (3H, t), 3.60 (2H, m), 3.63 (2H, m), 4.15 (2H, q), 7.18–7.32 (4H, m); LRMS ESI m/z 245 [M+Na]+

reactant | 2,2′-(1,3-phenylene)diacetic acid | 308 mmol, 59.2 g | C1(=CC(=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
reactant | hydrochloric acid | 58.8 mmol, 12 M, 4.9 mL | Cl | ClH
reactant | ethanol | 24 mL | C(C)O | C2H6O
solvent | dioxan | 290 mL | O1CCOCC1 | C4H8O2
product | (3-Ethoxycarbonylmethylphenyl)acetic acid | 10.8 g | C(C)OC(=O)CC=1C=C(C=CC1)CC(=O)O | C12H14O4
